US07989454B2
4-(2-(2-Carboxy-ethyl)-3-{7-[5-(4-methyl-piperazine-1-carbonyl)-biphenyl-3-yl]-heptyl}-phenoxy)-butyric acid
To a solution of 4-(2-(2-Carboxy-ethyl)-3-{7-[5-(4-methyl-piperazine-1-carbonyl)-biphenyl-3-yl]-hept-6-ynyl}-phenoxy)-butyric acid (20 mg, 0.032 mmol) in MeOH (4 mL) was added 10% Pd/C (2 mg). The mixture was stirred for 4 h under hydrogen atmosphere at room temperature. The resulting suspension was filtered through Celite™ and concentrated under reduced pressure to afford the title compound. Yield: 90%

reactant | 4-(2-(2-Carboxy-ethyl)-3-{7-[5-(4-methyl-piperazine-1-carbonyl)-biphenyl-3-yl]-hept-6-ynyl}-phenoxy)-butyric acid | 0.032 mmol, 20 mg | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCC#CC=1C=C(C=C(C1)C(=O)N1CCN(CC1)C)C1=CC=CC=C1 | C38H44N2O6
solvent | MeOH | 4 mL | CO | CH4O
catalyst | Pd/C | 2 mg | [Pd] | Pd
product | 4-(2-(2-Carboxy-ethyl)-3-{7-[5-(4-methyl-piperazine-1-carbonyl)-biphenyl-3-yl]-heptyl}-phenoxy)-butyric acid | Yield: 90% | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCCCC=1C=C(C=C(C1)C(=O)N1CCN(CC1)C)C1=CC=CC=C1 | C38H48N2O6
